US07012089B2
[2-(2-Chloro-6-nitro-phenyl)-ethyl]-methyl-amine
To a solution of methylamine in THF (2 M, 200 mL) was added 2-(2-bromoethyl)-1-chloro-3-nitro-benzene (14.0 g, 0.053 mole) in a pressure bottle, the reaction mixture was stirred at 60° C. overnight and the solvent was removed. The solid residue was treated with sodium hydroxide (1 N, 100 mL) and the aqueous extracted with methylene chloride (2×100 mL). The combined organic layers were washed with water (100 mL), saturated sodium chloride (100 mL), dried (sodium sulfate) and concentrated to provide 11.0 g of the title compound as a light brown oil. 1H NMR (DMSO-d6): 7.70 δ (d, 1H); 7.60 δ (d, 1H); 7.35 δ (t, 1H); 3.15 δ (t, 2H); 2.90 δ (t, 2H); 2.60 δ (s, 3H); 1.60 δ (broad, 1H).

reactant | methylamine | CN | CH5N
reactant | 2-(2-bromoethyl)-1-chloro-3-nitro-benzene | 0.053 mole, 14.0 g | BrCCC1=C(C=CC=C1[N+](=O)[O-])Cl | C8H7BrClNO2
solvent | THF | 2 M, 200 mL | C1CCOC1 | C4H8O
product | [2-(2-Chloro-6-nitro-phenyl)-ethyl]-methyl-amine | 11.0 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])CCNC | C9H11ClN2O2
